US05723499
Preparation of ethyl 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-anthryl)-4-thiophenecarboxylate
A solution of 9.5 g (30 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-bromoanthracene was added dropwise to a suspension of 724 mg (30 mmol) of magnesium in 10 ml of THF. Once the addition was completed, the mixture was heated at reflux for one hour. At room temperature 4.1 g (30 mmol) of anhydrous zinc chloride were added and the mixture was stirred for one hour. 5.2 g (22 mmol) of ethyl 2-bromo-4-thiophenecarboxylate and 120 mg (0.22 mmol) of the complex NiCl2 /DPPE were then added successively and the mixture was maintained under stirring at room temperature for 12 hours. The reaction medium was poured into ice-cold water, extracted with ethyl ether, the organic phase decanted off, dried over magnesium sulfate and evaporated. The residue obtained was chromatographed on a silica column eluted with a mixture of hexane and dichloromethane (60/40). After evaporation of the solvents, 6.35 g (74%) of the expected ester of melting point 107°-108° C. were recovered.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-bromoanthracene | 30 mmol, 9.5 g | CC1(C=2C=C3C=CC(=CC3=CC2C(CC1)(C)C)Br)C | C18H21Br
reactant | magnesium | 30 mmol, 724 mg | [Mg] | Mg
reactant | ethyl 2-bromo-4-thiophenecarboxylate | 22 mmol, 5.2 g | BrC=1SC=C(C1)C(=O)OCC | C7H7BrO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 30 mmol, 4.1 g | [Cl-].[Zn+2].[Cl-]
catalyst | NiCl2 DPPE | Cl[Ni]Cl.CCN(CC)CCOC=1C=CC(=CC1)CC=2C=CC=CC2.Cl
product | ethyl 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-anthryl)-4-thiophenecarboxylate | CC1(C=2C=C3C=CC(=CC3=CC2C(CC1)(C)C)C=1SC=C(C1)C(=O)OCC)C | C25H28O2S
